US07307099B2
4-(1-benzenesulfonyl-1H-indol-2-yl)-4-hydroxy-cyclohexa-2,5-dienone
The title compound was prepared from 4,4-dimethoxy-cyclohexa-2,5-dienone and 1-benzenesulfonyl-1H-indole (available commercially), according to Method C, described above. Yield 18%; mp 170-172° C.; 1H NMR (CDCl3) δ 8.0 (d, J=8 Hz, 1H), 7.87 (d, J=8 Hz, 2H), 7.51-7.60 (m, 3H), 7.30-7.46 (m, 3H), 7.18-7.27 (m, 2H), 6.80 (s, 1H), 6.32 (d, J=10 Hz, 2H), 5.50 (s, 1H); 13C NMR (CDCl3) δ 185.3, 147.9, 141.2, 138.6, 137.8, 134.7, 129.7, 128.7, 128.1, 127.0, 126.6, 125.0, 122.1, 115.6, 114.1, 67.9.

reactant | 4,4-dimethoxy-cyclohexa-2,5-dienone | COC1(C=CC(C=C1)=O)OC | C8H10O3
reactant | 1-benzenesulfonyl-1H-indole | C1(=CC=CC=C1)S(=O)(=O)N1C=CC2=CC=CC=C12 | C14H11NO2S
product | 4-(1-benzenesulfonyl-1H-indol-2-yl)-4-hydroxy-cyclohexa-2,5-dienone | Yield 18% | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC2=CC=CC=C12)C1(C=CC(C=C1)=O)O | C20H15NO4S
